US08440666B2
N-Methoxy-N-methylpyridazine-4-carboxamide
A N,N-dimethylformamide solution (16 mL) of 4-pydirazincarboxylic acid (1.61 g, 13.0 mmol), N-methyl-N-methoxyamine hydrochloride (2.54 g, 26.0 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (6.23 g, 32.5 mmol), 1-hydroxybenzotriazole hydrate (catalytic amount) and triethylamine (9.06 mL, 65.0 mmol) was stirred at room temperature for 3 days. After completion of the reaction, the solvent was removed by vacuum distillation, and the residue was mixed with water and chloroform and filtered through celite. The filtrate was extracted with chloroform, and the extract was dried over anhydrous sodium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate) to give the desired product (94% yield).

reactant | N-methyl-N-methoxyamine hydrochloride | 26.0 mmol, 2.54 g | Cl.CNOC
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 32.5 mmol, 6.23 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 65.0 mmol, 9.06 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 16 mL | CN(C=O)C | C3H7NO
product | N-Methoxy-N-methylpyridazine-4-carboxamide | 94% yield | CON(C(=O)C1=CN=NC=C1)C | C7H9N3O2
